US08541421B2
N-(2-cyano-5-methoxyphenylcarbamoyl)benzamide
Prepared as in Example 53a from 2-amino-4-methoxybenzonitrile and benzoyl isocyanate as white solid (99 mg, 45%). 1H NMR (400 MHz, DMSO-d6) δ3.86 (s, 3H), 6.87 (dd, J=2.5 Hz, 2.4 Hz, 1H), 7.54 (t, J=8 Hz, 2H), 7.66 (t, J=1.2 Hz, 1H), 7.77 (d, J=7.2 Hz, 1H), 7.89 (d, J=8.4 Hz, 1H), 8.03 (d, J=2.8 Hz, 2H), 11.35 (s, 1H), 11.52 (s, 1H). MS 295 (MH+).

reactant | 2-amino-4-methoxybenzonitrile | NC1=C(C#N)C=CC(=C1)OC | C8H8N2O
reactant | benzoyl isocyanate | 99 mg | C(C1=CC=CC=C1)(=O)N=C=O | C8H5NO2
product | N-(2-cyano-5-methoxyphenylcarbamoyl)benzamide | C(#N)C1=C(C=C(C=C1)OC)NC(=O)NC(C1=CC=CC=C1)=O | C16H13N3O3
